US08304557B2
N-[5-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)-2-methylphenyl]-3-ethyl-1-methyl-1H-pyrazole-5-carboxamide
In the same manner as in Example 55 and using 3-ethyl-1-methyl-1H-pyrazole-5-carboxylic acid (98.0 mg, 0.632 mmol), tetrahydrofuran (5 mL), thionyl chloride (109 μL, 1.25 mmol), N,N-dimethylformamide (2 drops), N-[6-(3-amino-4-methylphenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide (185 mg, 0.572 mmol) and N,N-dimethylacetamide (6 mL) as starting materials, the title compound (160 mg, 61%) was obtained as a white solid.

reactant | 3-ethyl-1-methyl-1H-pyrazole-5-carboxylic acid | 0.632 mmol, 98.0 mg | C(C)C1=NN(C(=C1)C(=O)O)C | C7H10N2O2
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | thionyl chloride | 1.25 mmol, 109 μL | S(=O)(Cl)Cl | Cl2OS
reactant | N-[6-(3-amino-4-methylphenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide | 0.572 mmol, 185 mg | NC=1C=C(OC=2C=CC=3N(C2)N=C(N3)NC(=O)C3CC3)C=CC1C | C17H17N5O2
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | N,N-dimethylacetamide | 6 mL | CN(C(C)=O)C | C4H9NO
product | N-[5-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)-2-methylphenyl]-3-ethyl-1-methyl-1H-pyrazole-5-carboxamide | 160 mg, 61% | C1(CC1)C(=O)NC1=NN2C(C=CC(=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)CC)C)=N1 | C24H25N7O3
